US06521643B1
To a stirred solution of 2-chloro-4-methylthiazole (0.3 g) in tetrahydrofuran (3 ml) was added a solution of n-butyllithium in n-hexane (1.63M, 1.52 ml) dropwise at −70° C. under a nitrogen atmosphere, and the mixture was stirred for 20 minutes at −70° C. To the resultant mixture was added N,N-dimethylformamide (0.21 ml) at −70° C., and the mixture was stirred for 40 minutes. The mixture was poured into a saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography (silica gel 10 g, n-hexane:ethyl acetate=10:1) to give 2-chloro-5-formyl-4-methylthiazole (231 mg).

reactant | 2-chloro-4-methylthiazole | 0.3 g | ClC=1SC=C(N1)C | C4H4ClNS
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethylformamide | 0.21 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.63M, 1.52 ml | CCCCCC | C6H14
product | 2-chloro-5-formyl-4-methylthiazole | 231 mg | ClC=1SC(=C(N1)C)C=O | C5H4ClNOS
